US09233098B2
1. Preparation of ethyl 2-[1-(4-nitrobenzyl)-1H-indazol-3-yl]acetate
Ethyl 2-(1H-indazol-3-yl)acetate (9.78 g, 47.9 mmol) was dissolved in anhydrous tetrahydrofuran (100 mL). Cesium carbonate (46.81 g, 143.7 mmol) was added, and stirred at room temperature for half an hour. Then p-nitro benzyl bromide (10.36 g, 47.96 mmol) was added, reacted for 16 hours, and then the solid was filtered. The filtrate was concentrated, chromatographed on a silica gel column (petroleum ether:ethyl acetate=2:1) to obtain a yellow solid 12.68 g, at a yield of 78.1%.

reactant | Ethyl 2-(1H-indazol-3-yl)acetate | 47.9 mmol, 9.78 g | N1N=C(C2=CC=CC=C12)CC(=O)OCC | C11H12N2O2
reactant | Cesium carbonate | 143.7 mmol, 46.81 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | p-nitro benzyl bromide | 47.96 mmol, 10.36 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl 2-[1-(4-nitrobenzyl)-1H-indazol-3-yl]acetate | 12.68 g, yield of 78.1% | [N+](=O)([O-])C1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H17N3O4
